US08084623B2
To a stirred solution of 2-[(3,4-dichloro-5-fluoro-phenyl)-hydroxy-methyl]-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.533 g, 1.31 mmol) in DCM (20 mL) at 0° C. under nitrogen was added DMP (0.557 g, 1.55 mmol) in a single portion. The reaction mixture was warmed to ambient temperature and stirred for 90 minutes. A second portion of DMP (0.110 g, 0.26 mmol) was added, and the reaction mixture was stirred for 30 minutes, then diluted with DCM, washed with 1 N NaOH, brine (20 mL), dried (MgSO4), filtered and concentrated in vacuo to a clear colourless oil (0.55 g). Purification by chromatography (silica, 5-20% EtOAc in hexanes) gave 2-(3,4-dichloro-5-fluoro-benzoyl)-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.358 g, 0.886 mmol, 68%) as a clear colourless gum.

reactant | 2-[(3,4-dichloro-5-fluoro-phenyl)-hydroxy-methyl]-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.31 mmol, 0.533 g | C(C)(C)(C)OC(=O)N1C(CCC1)(CCC)C(O)C1=CC(=C(C(=C1)F)Cl)Cl | C19H26Cl2FNO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dichloro-5-fluoro-benzoyl)-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.886 mmol, 0.358 g, 68% | C(C)(C)(C)OC(=O)N1C(CCC1)(CCC)C(C1=CC(=C(C(=C1)F)Cl)Cl)=O | C19H24Cl2FNO3
